datasets/10k_Mayr_OG.csv
SMILES Labelled
C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>F[C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCOCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCOCC3)[CH:45]=[CH:46]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][N:10]1[C:11](=[O:12])[C:72]2=[C:73](C=CC=C2)[C:61]1=[O:62] 10,11=10,20;12=11,12;20,21=21"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10](Br)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:72]/[C:11](=[C:10](\[N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]([C:11](=[O:12])[O:72]CC)([N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[N:12]1[CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:12]1=[CH:11][N:10]([CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C.C[CH:11]=[CH2:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH+:11]C)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[C:10]([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[O:94][C:83]([N+:12]1=[CH:11][C:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C>>C[C:11]([CH2:10][CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.C1C[N:10]2CCC1CC2>>C1C[C:21]([CH2:20][N+:10]23CCC(CC2)CC3)=[C:22]([O-:23])[O:33]C1 10=20;20,21=21,22;22,23=23"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20;12=11,12"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].C[Si](C)(C)[C:11](C)=[CH2:10]>>C[Si](C)(C)[C+:11](C)[CH2:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C 10=20
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C1CC[N:72]([C:61]([S-:10])=[S:62])C1>>C1=CC=C([S:32]([CH-:21][CH2:20][S:10][C:61](=[S:62])[N:72]2CCCC2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
